US07407962B2
4-(4-Phenylamino-[1,3,5]triazin-2-yl)-1-(2,4,6-trimethyl-benzenesulfonyl)-1H-pyrrole-2-carboxylic acid methyl ester:
In a 10 mL flask was added 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(2,4,6-trimethyl-benzenesulfonyl)-1H-pyrrole-2-carboxylic acid methyl ester (1.0 equivalent, 0.34 mmol, 149 mg), (4-chloro-[1,3,5]triazin-2-yl)-phenyl-amine (1.1 equivalent, 0.37 mmol, 78 mg), tetrakistriphenylphosphine palladium (0.2 equivalent, 0.07 mmol, 80 mg), sodium carbonate (1 mL, 2 N), methanol (1 mL) and benzene (5 mL). The resulting mixture was heated at 80° C. for 2 hours then diluted in ethyl acetate and washed with water, brine. The organic layer was dried over sodium sulfate then concentrated under vacuum. The crude mixture was then purified by prep HPLC to afford 55 mg of the title compound. HPLC, Rt=8.8 min, FIA, ES+=478.1.

reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(2,4,6-trimethyl-benzenesulfonyl)-1H-pyrrole-2-carboxylic acid methyl ester | 0.34 mmol, 149 mg, 1.0 equivalent | COC(=O)C=1N(C=C(C1)B1OC(C(O1)(C)C)(C)C)S(=O)(=O)C1=C(C=C(C=C1C)C)C | C21H28BNO6S
reactant | (4-chloro-[1,3,5]triazin-2-yl)-phenyl-amine | 0.37 mmol, 78 mg, 1.1 equivalent | ClC1=NC(=NC=N1)NC1=CC=CC=C1 | C9H7ClN4
reactant | sodium carbonate | 2 N, 1 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | methanol | 1 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | benzene | 5 mL | C1=CC=CC=C1 | C6H6
product | 4-(4-Phenylamino-[1,3,5]triazin-2-yl)-1-(2,4,6-trimethyl-benzenesulfonyl)-1H-pyrrole-2-carboxylic acid methyl ester | 55 mg | COC(=O)C=1N(C=C(C1)C1=NC=NC(=N1)NC1=CC=CC=C1)S(=O)(=O)C1=C(C=C(C=C1C)C)C | C24H23N5O4S
